Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[O:4][C:5]([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[O:4][C:5][H:6].[O:7]=[C:8]=[C:9]([H:10])[H:11],0.1175664319119999
[O:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.7715981016500004
[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16],-3.75610007847
[C:9]([H:10])([H:11])[H:12].[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7][H:8]>>[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-3.80125600767
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1],5.906971587999999
[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14],-4.25572153519
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10]>>[H:6].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:7](\[H:8])[O:9][H:10],1.55341367509
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:9]/[O:10][C:11]([H:12])[H:13].[H:8],2.67608351383
[C:1][O:2][C:3]#[C:4][H:5]>>[C:1][O:2][C:3]#[C:4].[H:5],4.4291873418000005
[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10][H:11]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-5.12380362983
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1],6.127275913740001
[C:1]#[C:2][O:3][C:4]#[C:5].[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],-5.793827148840001
[H:1][C:2][H:3].[O:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.11898750241
[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:4].[O:1]=[C:2]([H:3])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],0.358330434086
[C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.595573163469
[H:1][O:2][C:3]([H:4])([H:5])[C:6]1[O:7][C:8]1([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:8]([O:7])([H:9])[H:10],2.92802490127
[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.82551761201
[H:1][O:2][C@:3]([H:4])(/[C:5]([H:6])=[C:7](\[H:8])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.75668644157
[C:2]([H:3])#[C:4][C:5][O:6][H:7].[O:1]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][H:7],-6.36085921204
[H:10].[H:1][C:2]#[C:3][O:4][C:5]#[C:6][C:7]([H:8])[H:9]>>[H:1][C:2]#[C:3][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-4.07317687768
[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[H:8].[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])[O:9][H:10],3.58542862296
[H:7].[O:1]=[C:2]([O:3][H:4])[C:5](=[C:6])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([O:3][H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-3.9730652440800007
[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[O:1]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-8.02337989224
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[C:6]([O:7][H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[H:5],1.88299605731
[C:3]#[C:4][H:5].[H:1][C:2]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-5.65425168939
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2],7.0372528262100005
[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])=[C:4][H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.459343464830001
[H:12].[H:1][O:2][C@:3]([H:4])([C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C@:3]([H:4])([C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.96532390679
